US05614527
A mixture of 0.30 g of 1-[(tetrahydro-3-furanyl) methyl]-2-(nitroimino)hexahydropyrimidine, 0.07 g of sodium hydride (60%) and 10 ml of acetonitrile was stirred at 50° C. for 30 minutes. After this mixture was cooled on ice, 0.11 g of acetyl chloride was dropwise added thereto over 10 minutes, and the mixture was then stirred at room temperature for 2 hours. After the completion of reaction, insolubles were removed by filtration, and concentration was then carried out under a reduced pressure. The resultant oily substance was purified by silica gel column chromatography (2:1 ethyl acetate/acetone) to obtain 0.06 g of 1-(methylcarbonyl)-2-(nitroimino)-3-[(tetrahydro-3-furanyl)methyl]hexahydropyrimidine.

reactant | 1-[(tetrahydro-3-furanyl) methyl]-2-(nitroimino)hexahydropyrimidine | 0.30 g | O1CC(CC1)CN1C(NCCC1)=N[N+](=O)[O-] | C9H16N4O3
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | acetyl chloride | 0.11 g | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(methylcarbonyl)-2-(nitroimino)-3-[(tetrahydro-3-furanyl)methyl]hexahydropyrimidine | 0.06 g | CC(=O)N1C(N(CCC1)CC1COCC1)=N[N+](=O)[O-] | C11H18N4O4
